US05206235
Step B: 7-chloro-1-tetralone
7-Amino-1-tetralone (500 mg, 3.1 mmol) was suspended in 3 mL of water and treated with 3 mL of concentrated hydrochloric acid with stirring. The mixture was cooled in an ice bath and treated dropwise with vigorous stirring with a solution of 241 mg of sodium nitrite in 1.5 mL of water (3.5 mmol, 1.1 eq). The mixture was stirred at 0°-5° for 15 minutes then added dropwise to a cold solution of 366 mg of CuCl (3.7 mmol, 1.2 eq) in 6 mL of concentrated hydrochloric acid. The mixture was stirred for 5 minutes at 0° and 1 hour at room temperature. The mixture was extracted with methylene chloride (3×15 mL); the combined extracts were washed with brine, dried over magnesium sulfate, filtered and evaporated to dryness under vacuum at room temperature to give 550 mg (3.05 mmol, 98%) of the product. 1H NMR (300 MHz, CDCl3): 2.16 (m,2H), 2.67 (t,6 Hz,2H), 2.95 (t,6 Hz,2H), 7.22 (d,8 Hz,1H), 7.44 (dd;2,8 Hz;1H), 8.01 (d,2 Hz,1H). FAB-MS: calculated for C10H9ClO 180; found 181 (M+H,10%).

reactant | 7-Amino-1-tetralone | 3.1 mmol, 500 mg | NC1=CC=C2CCCC(C2=C1)=O | C10H11NO
reactant | sodium nitrite | 241 mg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 6 mL | Cl | ClH
reactant | hydrochloric acid | 3 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
catalyst | CuCl | 3.7 mmol, 366 mg, 1.2 eq | Cl[Cu]
solvent | water | 3.5 mmol, 1.5 mL, 1.1 eq | O | H2O
product | 7-chloro-1-tetralone | 3.05 mmol, 550 mg, 98% | ClC1=CC=C2CCCC(C2=C1)=O | C10H9ClO
